US09447090B2
To a mixed solution of 1.55 g of 1-methyl-3-(nitromethyl)benzene in 15 ml of ethanol and 6 ml of dioxane were added 0.05 ml of a 1 M aqueous sodium hydroxide solution and 1.89 ml of a 37% aqueous formalin solution, followed by stirring for 15 hours. 0.05 ml of a 1 M aqueous sodium hydroxide solution and 0.83 ml of a 37% aqueous formalin solution were added thereto, followed by stirring at 50° C. for 2 hours, and the solvent was evaporated under reduced pressure. To the obtained residue was added ethyl acetate, followed by washing with saturated brine and drying over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.91 g of 2-(3-methylphenyl)-2-nitropropane-1,3-diol.

reactant | 1-methyl-3-(nitromethyl)benzene | 1.55 g | CC1=CC(=CC=C1)C[N+](=O)[O-] | C8H9NO2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | formalin | C=O | CH2O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 2-(3-methylphenyl)-2-nitropropane-1,3-diol | 1.91 g | CC=1C=C(C=CC1)C(CO)(CO)[N+](=O)[O-] | C10H13NO4
